US06391874B1
(1-Benzyl-1H-indazol-5-yl)-[7-(5-(1,3-dioxolan-2-yl)-furan-2-yl)quinazolin-4-yl]amine hydrochloride
Prepared according to Procedure B from (1-benzyl-1H-indazol-5-yl(7-iodoquinazolin-4-yl)-amine hydrochloride and 5-(1,3-dioxolan-2-yl)-2-(tri-n-butylstannyl)furan; tic Rf, 0.25 (100% EtOAc on silica); m/z (M+1+) 490.

reactant | 1-benzyl-1H-indazol-5-yl(7-iodoquinazolin-4-yl)-amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)I
reactant | 5-(1,3-dioxolan-2-yl)-2-(tri-n-butylstannyl)furan | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1-Benzyl-1H-indazol-5-yl)-[7-(5-(1,3-dioxolan-2-yl)-furan-2-yl)quinazolin-4-yl]amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)C=1OC(=CC1)C1OCCO1 | InChI=1S/C29H23N5O3.ClH/c1-2-4-19(5-3-1)17-34-25-9-7-22(14-21(25)16-32-34)33-28-23-8-6-20(15-24(23)30-18-31-28)26-10-11-27(37-26)29-35-12-13-36-29;/h1-11,14-16,18,29H,12-13,17H2,(H,30,31,33);1H
